US04588749
N-(2-(4-Methylphenyl)-1,1-dimethylethyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine
The title compound was prepared in the manner described in Example 9 using 3-chlorophenylglyoxal and 2-(4-Methylphenyl)-1,1-dimethyl ethanamine. The chromatographed material was recrystallized from cyclohexane to give the title compound m.p. 104-105. τ(CDCL3), 8.9 (6H, s), 7.7 (3H, s), 7.4 (2H, s), 7.1 (2H, dd,), 5.45 (1H, dd), 3.0 (4H, s), 2.5-2.8 (4H, m).

reactant | 3-chlorophenylglyoxal | ClC=1C=C(C=CC1)C(=O)C=O | C8H5ClO2
reactant | 2-(4-Methylphenyl)-1,1-dimethyl ethanamine | CC1=CC=C(C=C1)CC(N)(C)C | C11H17N
product | N-(2-(4-Methylphenyl)-1,1-dimethylethyl)-2-hydroxy-2-(3-chlorophenyl)ethanamine | CC1=CC=C(C=C1)CC(C)(C)NCC(C1=CC(=CC=C1)Cl)O | C19H24ClNO
